US07241785B2
A mixture of methyl 3-(2-chloro-4-phenyl-5-thiazolyl)propionate (380 mg), 4-hydroxythiophenol (341 mg), potassium carbonate (373 mg) and N,N-dimethylformamide (7 ml) was stirred at room temperature for 5 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with dilute hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and-concentrated to give methyl 3-[2-(4-hydroxyphenylthio)-4-phenyl-5-thiazolyl]propionate (464 mg, yield 93%) as colorless crystals. The crystals were recrystallized from toluene-hexane. melting point: 153–155° C.

reactant | methyl 3-(2-chloro-4-phenyl-5-thiazolyl)propionate | 380 mg | ClC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C13H12ClNO2S
reactant | 4-hydroxythiophenol | 341 mg | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 373 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 3-[2-(4-hydroxyphenylthio)-4-phenyl-5-thiazolyl]propionate | 464 mg, yield 93% | OC1=CC=C(C=C1)SC=1SC(=C(N1)C1=CC=CC=C1)CCC(=O)OC | C19H17NO3S2
